US05807863
A mixture of methyl (4-chloro-2,6-dimethyl-5-pyrimidinyl)-acetate (5.0 g, 23 mmol), 1-phenyl-1H-pyrazol-3-on (3.73 g, 23 mmol), potassium carbonate (5,5 g, 40 mmol) in dimethylformamide (30 ml) is heated at +120° C. for 2 hours. Addition of water, extraction with ether and drying gives the intermediate methyl 2-[2,4-dimethyl-6-(1-phenyl-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate as a yellow oil.

reactant | methyl (4-chloro-2,6-dimethyl-5-pyrimidinyl)-acetate | 23 mmol, 5.0 g | ClC1=NC(=NC(=C1CC(=O)OC)C)C | C9H11ClN2O2
reactant | 1-phenyl-1H-pyrazol-3-on | 23 mmol, 3.73 g | C1(=CC=CC=C1)N1NC(C=C1)=O | C9H8N2O
reactant | potassium carbonate | 40 mmol, 5,5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-[2,4-dimethyl-6-(1-phenyl-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate | CC1=NC(=C(C(=N1)C)CC(=O)OC)OC1=NN(C=C1)C1=CC=CC=C1 | C18H18N4O3
